US07759373B2
To a solution of 5-amino-2-(4-fluorophenyl)-4-phenylimidazole (63 mg) and pyridine (40 mg) in methylene chloride (5 ml) was added methyl chlorocarbonate (28 mg) under ice-cooling and the mixture was stirred at room temperature overnight. To the reaction mixture was added diethyl ether, and the solvent was removed under reduced pressure. The resulting residue was triturated with diethyl ether and the powder was collected by filtration. The powder was treated with hydrogen chloride-methanol solution to obtain 5-methoxycarbonylamino-2-(4-fluorophenyl)-4-phenylimidazole hydrochloride (67 mg) as colorless powder.

reactant | 5-amino-2-(4-fluorophenyl)-4-phenylimidazole | 63 mg | NC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C15H12FN3
reactant | pyridine | 40 mg | N1=CC=CC=C1 | C5H5N
reactant | methyl chlorocarbonate | 28 mg | C(OC)(=O)Cl | C2H3ClO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-methoxycarbonylamino-2-(4-fluorophenyl)-4-phenylimidazole hydrochloride | 67 mg | Cl.COC(=O)NC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C17H14FN3O2.ClH/c1-23-17(22)21-16-14(11-5-3-2-4-6-11)19-15(20-16)12-7-9-13(18)10-8-12;/h2-10H,1H3,(H,19,20)(H,21,22);1H
